US05366993
D. 3-(4-cyclododecyl-1-oxobutyl)-4-hydroxyl-2-(5H)thiophenone
To a dry flask under N2 atmosphere at 0° C. is added 1.31 g (11.3 mmol) of thiotetronic acid in 40 mL of dry dichloromethane followed by 1.42 mL (10.2 mmol) of triethylamine and 0.38 g (3.1 mmol) of 4-dimethylaminopyridine. After stirring at 0° C. for 5 minutes, 2.6 g (10.2 mmol) of cyclododecylbutanoic acid is added followed by 4.8 g (11.3 mmol) of 1-cyclohexyl-3-(2-morpholinoethyl) carbodiimide metho p-toluenesulfonate. After stirring for 10 minutes, the reaction mixture is allowed to warm to room temperature and is stirred overnight. The reaction mixture is quenched with 1N HCl. The layers are separated and the aqueous phase is washed once with dichloromethane. The combined organic layers are washed twice with aqueous sodium bicarbonate and twice with aqueous 2N HCl. The organic phase is then dried over MgSO4 and the dichloromethane evaporated. The residue is flash chromatographed on acidic silica gel using 8% ether/hexanes, dissolved in ether, washed with 1N HCl, dried and evaporated to give 1.2 g of a white solid: m.p. 62°-69° C.; IR; NMR (CDCl3) δ1.2-1.4 (m, 10H), 1.5 (s, 4H), 1.65 (m, 2H), 2.9 (t, 2H, J=7 Hz), 3.9 (s, 2H); MS Anal. Calc'd. for C20H32O3S: C, 68.53; H, 8.63 Found: C, 67.72; H, 8.84

reactant | thiotetronic acid | 11.3 mmol, 1.31 g | C1C(=O)CSC1=O | C4H4O2S
reactant | triethylamine | 10.2 mmol, 1.42 mL | C(C)N(CC)CC | C6H15N
reactant | cyclododecylbutanoic acid | 10.2 mmol, 2.6 g | C1(CCCCCCCCCCC1)C(C(=O)O)CC | C16H30O2
reactant | 1-cyclohexyl-3-(2-morpholinoethyl) carbodiimide metho p-toluenesulfonate | 11.3 mmol, 4.8 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C[N+]1(CCOCC1)CCN=C=NC2CCCCC2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 3.1 mmol, 0.38 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-(4-cyclododecyl-1-oxobutyl)-4-hydroxyl-2-(5H)thiophenone | 1.2 g | C1(CCCCCCCCCCC1)CCCC(=O)C=1C(SCC1O)=O | C20H32O3S
